US07727988B2
3-Benzoyl-5-iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione (Prep39)
To a solution of 3-(3-benzoyl-5-iodo-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-propionaldehyde (Prep 38, 700 mg, 1.7 mmol) in dichloromethane (20 mL), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep 4, 399 mg, 1.7 mmol), AcOH (158 mg, 2.5 mmol) and NaBH(AcO)3 (410 mg, 1.9 mmol) were added at 0° C. The mixture was stirred at 0° C. for further 1 hours. Water was added and the solvent was evaporated under vacuum, the residue re-dissolved in ethyl acetate and the mixture washed with a 5% solution of aqueous NaHCO3. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (97-3-1) to give the title compound as a white solid (880 mg, 83% yield).

reactant | 3-(3-benzoyl-5-iodo-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-propionaldehyde | 1.7 mmol, 700 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCC=O)=O | C14H11IN2O4
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 1.7 mmol, 399 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 2.5 mmol, 158 mg | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 1.9 mmol, 410 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 3-Benzoyl-5-iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione | 880 mg, 83% yield | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H23F3IN3O3
